US07329677B2
B2. 2-(1-Chloropropyl)-3H-imidazo[4,5-b]pyridine
5.0 g of 2,3-diaminopyridine in 200 g of polyphosphoric acid are heated at 120° C. for 0.5 h. The solution is cooled to 80° C. and 5.7 ml of 2-chlorobutyric acid are added. Thereafter, the reaction mixture is heated to 130° C. for 22 h. After cooling, the polyphosphoric acid is hydrolysed with water, the mixture is filtered using charcoal and celite and the pH value of the filtrate is adjusted to pH 4 using 9 M aqueous sodium hydroxide solution. The mixture is extracted three times each with 200 ml of ethyl acetate, the combined organic phases are dried using sodium sulfate, concentrated and the residue is purified by chromatography on silica gel (eluent: toluene/ethyl acetate 1:1) to give 5.19 g of the title compound as a colorless, amorpheous solid. M.p. 137° C. TLC: Rf=0.50 (dichloromethane/methanol 10:1).

reactant | 2,3-diaminopyridine | 5.0 g | NC1=NC=CC=C1N | C5H7N3
reactant | 2-chlorobutyric acid | 5.7 ml | ClC(C(=O)O)CC | C4H7ClO2
solvent | water | O | H2O
product | 2-(1-Chloropropyl)-3H-imidazo[4,5-b]pyridine | 5.19 g | ClC(CC)C1=NC=2C(=NC=CC2)N1 | C9H10ClN3
